US06919365B2
1-(3-Chlorobenzyl)-5,5-dimethyl-3-naphthylcarbonylimidazolidine-2,4-dione (Compound 28)
5,5-Dimethyl-3-naphthylcarbonylimidazolidine-2,4-dione (35 mg) was dissolved in DMF (0.4 mL), and sodium hydride (60%, in oil) (5 mg) was added. Then, 3-chlorobenzyl bromide (26 mg) was added, and the mixture was stirred at room temperature overnight. Ethyl acetate (9.5 mL) was added to the reaction solution, separated out white precipitates were filtered, and the filtrate was concentrated and purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain 14 mg of white crystals.

reactant | 5,5-Dimethyl-3-naphthylcarbonylimidazolidine-2,4-dione | 35 mg | CC1(C(N(C(N1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O)C | C16H14N2O3
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | 3-chlorobenzyl bromide | 26 mg | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | Ethyl acetate | 9.5 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 1-(3-Chlorobenzyl)-5,5-dimethyl-3-naphthylcarbonylimidazolidine-2,4-dione | 14 mg | ClC=1C=C(CN2C(N(C(C2(C)C)=O)C(=O)C2=CC=CC3=CC=CC=C23)=O)C=CC1 | C23H19ClN2O3
